US04264595
Production of sodium 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate (syn-isomer)
In 20 m of water there was suspended 0.525 g of 7-[2-(2-amidinothioacetylimino-4-thiazolin-4-yl)-2-acetoxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid hydrochloride (syn-isomer), followed by the addition of 0.252 g of sodium hydrogen carbonate. The mixture was stirred at room temperature for 15 hours. The reaction mixture, as such, was subjected to column chromatography on polystyrene resin (Amberlite XAD-2, Rohm and Haas Co.) and the fractions containing the desired product were pooled and lyophilized.

reactant | 7-[2-(2-amidinothioacetylimino-4-thiazolin-4-yl)-2-acetoxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid hydrochloride | 0.525 g | Cl.C(N)(=N)CC(=S)N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)=NOC(C)=O
reactant | sodium hydrogen carbonate | 0.252 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | sodium 7-[2-(2-imino-4-thiazolin-4-yl)-2-hydroxyimino-acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate | N=C1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)[O-])C1=O)=NO.[Na+] | InChI=1S/C15H15N5O7S2.Na/c1-5(21)27-2-6-3-28-13-9(12(23)20(13)10(6)14(24)25)18-11(22)8(19-26)7-4-29-15(16)17-7;/h4,9,13,26H,2-3H2,1H3,(H2,16,17)(H,18,22)(H,24,25);/q;+1/p-1/t9?,13-;/m1./s1
